.SUBCKT 4input0x7FFF_X2 A B C D VDD VSS Y
** N=11 EP=7 FDC=10
M0 VDD 5 Y VDD pmos_rvt L=1.6e-08 W=9.2e-08 nfin=4 $X=148 $Y=340 $dt=0
M1 11 D VDD VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=340 $dt=0
M2 10 C 11 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=340 $dt=0
M3 9 B 10 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=340 $dt=0
M4 5 A 9 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=340 $dt=0
M5 VSS 5 Y VSS nmos_rvt L=1.6e-08 W=9.2e-08 nfin=4 $X=148 $Y=52 $dt=1
M6 5 D VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=52 $dt=1
M7 VSS C 5 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=52 $dt=1
M8 5 B VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=52 $dt=1
M9 VSS A 5 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=52 $dt=1
.ends 4input0x7FFF_X2
