.SUBCKT 4input0x01FF_X2 A B C D VDD VSS Y
** N=11 EP=7 FDC=10
M0 VDD 5 Y VDD pmos_rvt L=1.6e-08 W=9.2e-08 nfin=4 $X=148 $Y=340 $dt=0
M1 7 D VDD VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=340 $dt=0
M2 5 A 7 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=340 $dt=0
M3 7 B 5 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=340 $dt=0
M4 5 C 7 VDD pmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=340 $dt=0
M5 VSS 5 Y VSS nmos_rvt L=1.6e-08 W=9.2e-08 nfin=4 $X=148 $Y=52 $dt=1
M6 5 D VSS VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=328 $Y=52 $dt=1
M7 11 A 5 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=508 $Y=52 $dt=1
M8 10 B 11 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=688 $Y=52 $dt=1
M9 VSS C 10 VSS nmos_rvt L=1.6e-08 W=4.6e-08 nfin=2 $X=868 $Y=52 $dt=1
.ends 4input0x01FF_X2
