.SUBCKT 3input0x8F_X1 A1 A2 A3 VDD VSS Y
MM7 na1 A1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 na1 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 VDD na1 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 Y A3 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A2 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 VSS na1 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 Y A3 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 Y A2 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS
