.SUBCKT 3input0x9F_X1_DH_N A1 A2 A3 VDD VSS Y
MM5 aoi21 A1 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM4 n2 A3 aoi21 VSS nmos_rvt w=46.00n l=16n nfin=2
MM3 n2 A2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM2 n1 A1 aoi21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM1 n1 A2 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM0 n1 A3 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM6 n3 A3 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM7 n3 A2 Y VDD pmos_rvt w=46.00n l=16n nfin=2
MM8 Y aoi21 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM9 n4 aoi21 Y VSS nmos_rvt w=46.00n l=16n nfin=2
MM10 n4 A3 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM11 n4 A2 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
.ENDS
