.SUBCKT 3input0x14_X1 A1 A2 A3 VDD VSS Y
MM0 VSS A1 nor2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 VSS A2 nor2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n1 A1 nor2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 VDD A2 n1 VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 VSS nor2 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 Y A3 n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 Y A1 n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 n4 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 n2 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 n3 A3 n2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 VDD A2 n3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 Y nor2 n3 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
