.SUBCKT 3input0x16_X2 A1 A2 A3 VDD VSS Y
MM0 VSS A1 nor2 VSS nmos_rvt w=92.0n l=16n nfin=4
MM1 VSS A2 nor2 VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 n1 A1 nor2 VDD pmos_rvt w=92.0n l=16n nfin=4
MM3 VDD A2 n1 VDD pmos_rvt w=92.0n l=16n nfin=4
MM4 VSS nor2 Y VSS nmos_rvt w=92.0n l=16n nfin=4
MM5 VSS A3 n2 VSS nmos_rvt w=92.0n l=16n nfin=4
MM6 Y A2 n2 VSS nmos_rvt w=92.0n l=16n nfin=4
MM7 n3 nor2 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM8 Y A3 n3 VDD pmos_rvt w=92.0n l=16n nfin=4
MM9 Y A2 n3 VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
