.SUBCKT 3input0x27_X2 A B C VDD VSS Y
* Canonical: 0b10000111
* Function: Y = binate [small-gate search, 14 TR]
* Transistors: 14
MP0 sg3_ps0 B VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP1 sg3 C sg3_ps0 VDD pmos_rvt W=92.0n L=16n nfin=4
MP4 sg5_ps0 A VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP5 sg5 sg3 sg5_ps0 VDD pmos_rvt W=92.0n L=16n nfin=4
MP11 sg7_pmid sg5 VDD VDD pmos_rvt W=92.0n L=16n nfin=4
MP12 Y A sg7_pmid VDD pmos_rvt W=92.0n L=16n nfin=4
MP13 Y sg3 sg7_pmid VDD pmos_rvt W=92.0n L=16n nfin=4
MN2 sg3 B VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN3 sg3 C VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN6 sg5 A VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN7 sg5 sg3 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN8 Y sg5 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
MN9 Y A sg7_nmid VSS nmos_rvt W=92.0n L=16n nfin=4
MN10 sg7_nmid sg3 VSS VSS nmos_rvt W=92.0n L=16n nfin=4
.ENDS
